US05728724
[2-(1-Naphthyl)-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone
A solution of [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone (1.58 g, 3.6 mmol) (see U.S. Pat. No. 5,420,349) in tetrahydrofuran (THF, 12 mL) was cooled to 0° C. and treated with a 0.65M THF solution of 1-naphthylmagnesium bromide (20.0 mL, 13 mmol) (prepared from 1-bromonaphthalene, catalytic iodine, and magnesium turnings in THF). The mixture was allowed to warm to ambient temperature and when the starting material was consumed, the reaction was quenched with water and extracted with ethyl acetate (a small amount of methanol was added to improve solubility). The organic layer was washed with water (2×), and brine (2×), dried (sodium sulfate), and concentrated. The residue was purified via chromatography (silica gel, 0-10% methanol in methylene chloride) to provide 1.08 g (58%) of the title compound as a yellow foam: 1H NMR (300 MHz, CDCl3) δ1.46 (m, 2H), 1.60 (m, 4H), 2.47 (m, 4H), 2.68 (t, J=5.9 Hz, 2H), 3.92 (s, 3H), 3.96 (t, J=5.9 Hz, 2H), 6.47 (d, J=8.8 Hz, 2H), 7.06 (dd, J=2.3 Hz, 8.9 Hz, 1H), 7.27-7.50 (m, 5H), 7.54 (d, J=8.8 Hz, 2H), 7.67-7.75 (m, 2H), 7.79 (d, J=8.9 Hz, 1H), 8.06-8.09 (m, 1H); MS (FD) m/e 521 (M+).

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone | 3.6 mmol, 1.58 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 1-naphthylmagnesium bromide | 13 mmol, 20.0 mL | C1(=CC=CC2=CC=CC=C12)[Mg]Br
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | THF | 0.65M | O1CCCC1 | C4H8O
product | [2-(1-Naphthyl)-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone | 1.08 g, 58% | C1(=CC=CC2=CC=CC=C12)C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC | C33H31NO3S
